US07439373B2
Preparation of Form M22 of Sodium Mycophenolate
Mycophenolic acid (3.20 g, 10 mmol) was dissolved in dichloromethane (64 ml). To this solution sodium methoxide (9 mmol, 1.67 ml of its 30% methanolic solution) was added under stirring. The formed suspension was diluted with 256 ml of dichloromethane. After 2 hours stirring at room temperature the solid was filtered off, dried at normal pressure at room temperature. Polymorphism was determined by X-ray diffraction. The obtained material was form M22.

reactant | Mycophenolic acid | 10 mmol, 3.20 g | CC1=C2C(=C(C(=C1OC)C/C=C(\C)/CCC(=O)O)O)C(=O)OC2 | C17H20O6
reactant | sodium methoxide | 9 mmol, 1.67 ml | C[O-].[Na+]
solvent | dichloromethane | 64 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 256 ml | ClCCl | CH2Cl2
product | Sodium Mycophenolate | CC1=C(C(=C(C2=C1COC2=O)O)C/C=C(\C)/CCC(=O)[O-])OC.[Na+] | InChI=1S/C17H20O6.Na/c1-9(5-7-13(18)19)4-6-11-15(20)14-12(8-23-17(14)21)10(2)16(11)22-3;/h4,20H,5-8H2,1-3H3,(H,18,19);/q;+1/p-1/b9-4+;
